US06717016B2
(c) Synthesis of 2-(2-fluorophenyl)-1-methylethyl Diisopropylcarbamate
Under a nitrogen atmosphere, a solution of 14.1 g (60.2 mmol) of (−)-Sparteine in 75 ml of diethyl ether was cooled to −78° C. and a 1.0M solution of 60.2 ml (60.2 mmol) of s-butyllithium in cyclohexane was added dropwise. The reaction mixture was stirred for 15 min and then added to a solution of 10 g (40.1 mmol) of 2-(2-fluorophenyl)ethyl diisopropylcarbamate in diethyl ether at −78° C. After stirring for 4 hr, methyl iodide was added, followed by stirring for 2 hr. Water was added and the resulting mixture was warmed to room temperature. The mixture was treated with 1 N—HCl, extracted 3 times with ethyl acetate, washed with water and brine and then dried over sodium sulfate. After the solvent was distilled off, purification of the residue by silica gel column chromatography gave 5.11 g of the title compound. (Yield: 45%).

reactant | (−)-Sparteine | 60.2 mmol, 14.1 g | C1CCN2C[C@@H]3C[C@H]([C@H]2C1)CN4[C@H]3CCCC4 | C15H26N2
reactant | s-butyllithium | 60.2 mmol, 60.2 ml | C(C)(CC)[Li]
reactant | 2-(2-fluorophenyl)ethyl diisopropylcarbamate | 40.1 mmol, 10 g | C(C)(C)N(C(OCCC1=C(C=CC=C1)F)=O)C(C)C | C15H22FNO2
reactant | methyl iodide | CI | CH3I
reactant | HCl | Cl | ClH
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | Water | O | H2O
product | 2-(2-fluorophenyl)-1-methylethyl Diisopropylcarbamate | 5.11 g, Yield: 45% | C(C)(C)N(C(OC(CC1=C(C=CC=C1)F)C)=O)C(C)C | C16H24FNO2
